US09034899B2
To a −20° C. solution of 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-ol (2.0 g, 4.18 mmol) and pyridine (0.37 mL, 4.6 mmol) in dichloromethane (40 mL) was added trifluoromethanesulfonic acid anhydride (0.77 mL, 4.6 mmol) drop wise. The mixture was stirred for 3 hours and then quenched with saturated aqueous sodium bicarbonate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography (hexanes to 1:1 hexanes/ethyl acetate) to give 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (2.03 g, 80%) as an off-white solid: 1H NMR (CDCl3, 500 MHz) δ 7.86 (dd, J=8.0, 1.3 Hz, 1H), 7.71-7.67 (m, 1H), 7.63-7.56 (m, 2H), 7.23 (d, J=8.5 Hz, 1H), 7.16 (d, J=2.5 Hz, 1H), 7.10 (dd, J=8.6, 2.6 Hz, 1H), 7.05 (d, J=2.1 Hz, 1H), 7.00 (d, J=8.6 Hz, 1H), 6.86 (dd, J=8.3, 2.2 Hz, 1H), 4.80 (d, J=16.5 Hz, 1H), 4.64 (d, J=16.5 Hz, 1H), 4.27 (dd, J=5.2, 5.2 Hz, 1H), 3.90 (dd, J=13.3, 4.7 Hz, 1H), 3.62 (dd J=13.4, 6.2 Hz, 1H).

reactant | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-ol | 4.18 mmol, 2.0 g | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C21H16Cl2N2O5S
reactant | pyridine | 4.6 mmol, 0.37 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 4.6 mmol, 0.77 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 2.03 g, 80% | FC(S(=O)(=O)OC1=CC=C2C(CN(CC2=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl)(F)F | C22H15Cl2F3N2O7S2
